US05945567
4A Ethyl 5-bromo-6-chloro-2-methoxybenzoate
A mixture of ethyl 6-chloro-2-methoxybenzoate (1.8 g, 8.4 mmol), bromine (1.41 g, 8.8 mmol) and acetic acid (5 ml) is stirred at room temperature for 24 hours. The reaction mixture is poured into water and extracted with ethyl acetate. The organic phase is separated and concentrated and the residue is purified by column chromatography (petrol ether: ethyl acetate, 95:5 v/v) yielding the pure product as a yellow oil, 1.7 g, (69%).

reactant | ethyl 6-chloro-2-methoxybenzoate | 8.4 mmol, 1.8 g | ClC1=CC=CC(=C1C(=O)OCC)OC | C10H11ClO3
reactant | bromine | 8.8 mmol, 1.41 g | BrBr | Br2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Ethyl 5-bromo-6-chloro-2-methoxybenzoate | BrC=1C=CC(=C(C(=O)OCC)C1Cl)OC | C10H10BrClO3
